US08242104B2
A mixture of 4-bromo-1-fluoro-2-nitrobenzene (20.0 g, 90 mmol), 3-butyn-1-ol (7.0 g, 99.8 mmol) and potassium carbonate (13.8 g, 99.8 mmol) in dry DMF (20 mL) was heated with 4 Å molecular sieves for 43 h. The mixture was cooled, diluted with water to approximately 500 mL and extracted three times with ethyl acetate. The combined organic extracts were washed with water and then brine, dried and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 5 to 10% ethyl acetate in cyclohexane) to give 4-Bromo-1-but-3-ynyloxy-2-nitro-benzene as a yellow solid (17.35 g, 71%). NMR showed an impurity (19%) which was not removed at this stage. LCMS: RT=4.41 min, [M+Na]+=292/294.

reactant | 4-bromo-1-fluoro-2-nitrobenzene | 90 mmol, 20.0 g | BrC1=CC(=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | 3-butyn-1-ol | 99.8 mmol, 7.0 g | C(CC#C)O | C4H6O
reactant | potassium carbonate | 99.8 mmol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-Bromo-1-but-3-ynyloxy-2-nitro-benzene | 17.35 g, 71% | BrC1=CC(=C(C=C1)OCCC#C)[N+](=O)[O-] | C10H8BrNO3
